US09334278B2
To a mixture of 5-methylpyridin-2-amine (72.1 mg, 666 μmol), 2-bromo-N-(1-hydroxy-2-methylpropan-2-yl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (197 mg, 444 μmol), (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (13.8 mg, 22.2 μmol), palladium(II) acetate (24.9 mg, 111 μmol) and sodium tert-butoxide (107 mg, 1.11 mmol) was added DMF (2 mL) and toluene (1 mL) then heated in a microwave at 140° C. for 20 min. The dark mixture generated was poured into water and extracted with ethyl acetate (3×). The organic layers were combined, washed with brine (2×), dried over magnesium sulfate and purified by chromatography (silica, 65-100% ethyl acetate in hexanes) to give N-(1-hydroxy-2-methylpropan-2-yl)-2-(5-methylpyridin-2-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (66 mg, 140 μmol, 32%) as a light yellow solid. MS (EI/CI) m/z: 471.4.

reactant | 5-methylpyridin-2-amine | 666 μmol, 72.1 mg | CC=1C=CC(=NC1)N | C6H8N2
reactant | 2-bromo-N-(1-hydroxy-2-methylpropan-2-yl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 444 μmol, 197 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(CO)(C)C)COCC[Si](C)(C)C | C17H27BrN4O3Si
reactant | (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 22.2 μmol, 13.8 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | sodium tert-butoxide | 1.11 mmol, 107 mg | CC(C)([O-])C.[Na+]
catalyst | palladium(II) acetate | 111 μmol, 24.9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(1-hydroxy-2-methylpropan-2-yl)-2-(5-methylpyridin-2-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 140 μmol, 66 mg, 32% | OCC(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=NC=C(C=C2)C)COCC[Si](C)(C)C | C23H34N6O3Si
